US08044196B2
Preparation of 2-methyl-4-(4-methyl-1-piperazinyl)-10H-thieno-[2,3-b][1,5]benzodiazepine
2-(2-Aminoanilino)-5-methylthiophene-3-carbonitrile (2.0 g) is taken in N-methyl-piperazine (12 ml) and acetic acid (2 ml). The solution is heated at 120° C. until completion of reaction. The reaction mass is cooled and tetrahydrofuran is added. The reaction mixture is stirred for 30 minutes. The water is added at 45-50° C., the mixture is cooled up to room temperature and the solid is precipitated out. The solid is filtered off and washed with tetrahydrofuran-water mixture.

reactant | 2-(2-Aminoanilino)-5-methylthiophene-3-carbonitrile | 2.0 g | NC1=C(NC=2SC(=CC2C#N)C)C=CC=C1 | C12H11N3S
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | water | O | H2O
solvent | N-methyl-piperazine | 12 ml | CN1CCNCC1 | C5H12N2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 2-methyl-4-(4-methyl-1-piperazinyl)-10H-thieno-[2,3-b][1,5]benzodiazepine | CC1=CC2=C(NC3=C(N=C2N2CCN(CC2)C)C=CC=C3)S1 | C17H20N4S
